* \\r5server\Mark\Altium Projects\150WLEDDriver_LT3756-2\LTspice sim\LT3756-2_boost160w_seoul_pwm.asc
C1 N004 0 4.7µ
L1 N001 IN 47µ Ipk=8.5 Rser=0.0122 Rpar=11590 Cpar=6.62p mfg="Würth Elektronik" pn="7443634700 WE-HCF 2013"
V1 IN 0 48
R1 IN N005 499K
R2 N005 0 24K
C2 N014 0 4700pF
D1 N007 N013 STW8B12C N=26
C3 N016 0 .1µ
R3 N018 0 42.2K
V2 NC_01 0 PULSE(0 3.3 0 1u 1u 250u 500u)
XU1 NC_02 N004 N008 N017 N018 N005 N004 IN N009 N006 N019 N010 N007 N003 N015 N012 0 LT3756
R4 N004 N008 100K
C4 IN 0 4.7µ x2
R6 N003 N010 780K
R7 N003 N007 0.056
R8 N015 N014 10K
R9 N009 0 0.02
D2 N002 N003 RB228T100
R11 N010 0 10K
C6 0 N003 4.7µ Rser=.003 x5
R14 N012 0 1K
R15 N012 N011 9.1k
D3 N007 N013 STW8B12C N=26
M§Q3 N013 N019 0 0 BSC060N10NS3
L2 N002 N001 47µ Ipk=8.5 Rser=0.0122 Rpar=11590 Cpar=6.62p mfg="Würth Elektronik" pn="7443634700 WE-HCF 2013"
C5 0 N003 0.1µ Rser=.003 x2
D4 N007 N013 STW8B12C N=26
D5 N007 N013 STW8B12C N=26
D6 N007 N013 STW8B12C N=26
D7 N007 N013 STW8B12C N=26
D8 N007 N013 STW8B12C N=26
D9 N007 N013 STW8B12C N=26
D10 N007 N013 STW8B12C N=26
D11 N007 N013 STW8B12C N=26
D12 N007 N013 STW8B12C N=26
D13 N007 N013 STW8B12C N=26
D14 N007 N013 STW8B12C N=26
D15 N007 N013 STW8B12C N=26
D16 N007 N013 STW8B12C N=26
V4 N011 0 12
R5 N017 N016 10K
M§Q1 N002 N006 N009 N009 BSC060N10NS3
M§Q2 N002 N006 N009 N009 BSC060N10NS3
.model D D
.lib C:\Users\Mark\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Mark\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 30m startup
.lib LT3756.sub
.backanno
.end
